US05730902
4.4 g (25 mmols) of diethylazodicarboxylate was dropped under ice-cooling conditions in a mixture of 9.1 g (20 mmols) of 4-(trans-4-(4-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)-2.6-difluorophenol, 2.6 g (20 mmols) of R-(-)-2-octanol, 6.6 g (25 mmols) of triphenylphosphine and 50 ml of tetrahydrofuran (hereinafter referred to simply as THF), followed by agitation for 2 hours. The reaction mixture was after-treated by a usual manner and purified through chromatography to obtain 9.2 g (yield: 82%) of 4-(trans-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)-1-(1-methylheptyloxy)-2,6-difluorobenzene.

reactant | diethylazodicarboxylate | 25 mmols, 4.4 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-(trans-4-(4-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)-2.6-difluorophenol | 20 mmols, 9.1 g | C(CCCC)[Si]1(CCC(CC1)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)O)F)C1=CC=CC=C1 | C28H38F2OSi
reactant | triphenylphosphine | 25 mmols, 6.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(trans-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)-1-(1-methylheptyloxy)-2,6-difluorobenzene | 9.2 g, yield: 82% | C(CCCC)[Si]1(CCC(CC1)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)OC(CCCCCC)C)F)C1=CC=CC=C1 | C36H54F2OSi
